US04767755
5.1. Ethyl 4-(6-methylimidazo[1,2-a]pyrid-2-yl)benzoate
67 g (0.62 mole) of 2-amino-5-methylpyridine, 86 g (1.02 mole) of sodium bicarbonate and 143 g (0.527 mole) of ethyl 4-(2-bromoacetyl)benzoate are introduced into 1 l of ethanol. The mixture is brought to reflux for 3 hours and left standing for 19 hours, and the solid formed is recovered by filtration, washed copiously with water and dried. It is recrystallized in a dichloromethane/methanol mixture. M.p. 228°-230° C.

reactant | 2-amino-5-methylpyridine | 0.62 mole, 67 g | NC1=NC=C(C=C1)C | C6H8N2
reactant | sodium bicarbonate | 1.02 mole, 86 g | C([O-])(O)=O.[Na+]
reactant | ethyl 4-(2-bromoacetyl)benzoate | 0.527 mole, 143 g | BrCC(=O)C1=CC=C(C(=O)OCC)C=C1 | C11H11BrO3
solvent | ethanol | 1 l | C(C)O | C2H6O
product | Ethyl 4-(6-methylimidazo[1,2-a]pyrid-2-yl)benzoate | CC=1C=CC=2N(C1)C=C(N2)C2=CC=C(C(=O)OCC)C=C2 | C17H16N2O2
